US07943607B2
3-[(7-Fluoro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A mixture of 7,8-difluoro-4-methyl-3,4-dihydro-1,4-benzoxazepin-5(2H)-one (725 mg, 2.0 mmol), 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (600 mg, 1.97 mmol) and potassium carbonate (550 mg, 3.88 mmol) in DMA (10 mL) was heated to 160° C. for 5 hours. Water (20 mL) was added to the reaction and extracted with ethyl acetate (3×30 mL). The combined organic phases were washed with water (2×30 mL) and brine (2×30 mL), dried (MgSO4), filtered and evaporated to give a yellow oil. This was purified by column chromatography on silica, eluting with 20-100% ethyl acetate in isohexane, to give the desired compound as a foam (65 mg).

reactant | 7,8-difluoro-4-methyl-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 2.0 mmol, 725 mg | FC=1C(=CC2=C(C(N(CCO2)C)=O)C1)F | C10H9F2NO2
reactant | 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 1.97 mmol, 600 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](COC)C | C15H19N3O4
reactant | potassium carbonate | 3.88 mmol, 550 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 20 mL | O | H2O
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | 3-[(7-Fluoro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 65 mg | FC=1C(=CC2=C(C(N(CCO2)C)=O)C1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](COC)C | C25H27FN4O6
